US07429605B2
2-(4-Chloro-phenyl)-5-[3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine
A solution of 97 mg (0.42 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)phenol in 4.0 ml N,N-dimethylformamide was treated at 0° C. with 18 mg (0.44 mmol) of 60% sodium hydride and stirred at 0° C. for 30 min. Then 100 mg (0.42 mmol) 5-Chloromethyl-2-(4-chloro-phenyl)-pyridine (GB 1147068) were added and stirred continued over night. After addition of 8 ml water, the precipitate was isolated, washed thoroughly with water, methanol/water 1:1 and diisopropylether. The residue was dried at 40° C. to give 133 mg (73%) of the title compound as light brown powder.

reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)phenol | 0.42 mmol, 97 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | sodium hydride | 0.44 mmol, 18 mg | [H-].[Na+]
reactant | 5-Chloromethyl-2-(4-chloro-phenyl)-pyridine | 0.42 mmol, 100 mg | ClCC=1C=CC(=NC1)C1=CC=C(C=C1)Cl | C12H9Cl2N
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chloro-phenyl)-5-[3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine | 133 mg, 73% | ClC1=CC=C(C=C1)C1=NC=C(C=C1)COC1=CC(=C(C=C1)CCCCN1N=NC=C1)C | C25H25ClN4O
